US05534625
2,4-Bis[(hydroxymethyl) (methyl) amino]-6-methylamino-1,3,5-triazine
To a 3% w/v aqueous solution of formaldehyde (15 ml) was added potassium carbonate (691 mg, 5 mmol) then trimethylmelamine (841 rag, 5 mmol). The reaction mixture was stirred at room temperature until the initially clear solution (pH 11.5) became cloudy (2-3 h) then set aside overnight (16 h). The white granular solid which separated was recovered by filtration, washed with water (4×5 ml) and the product dried in vacuo over anhydrous CaCl2. Yield 593 mg (52%); 1H-NMR spectrum δH (Me2SO--d6) 2.75 (app d, 3, HNCH3), 4.99 (br s, 4, HOCH2), 5.36 (br s, 2, OH) 6.61 (br s, 1, NH); mass spectrum (FAB; glycerol/thioglycerol matrix) m/z 229 ([M+H]+, 70%), 211 (229--H2O, 100%), 199 (229--CH2O, 35%), 181 (199--H2O, 50%), 169 (199--CH2O, 30%). Anal. C8H16N6O2 requires C, 42.10; H, 7.07; N, 36.82: found C, 41.87; H, 7.01; N, 36.55%.

reactant | formaldehyde | 15 ml | C=O | CH2O
reactant | potassium carbonate | 5 mmol, 691 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylmelamine | 5 mmol | CNC1=NC(=NC(=N1)NC)NC | C6H12N6
product | 2,4-Bis[(hydroxymethyl) (methyl) amino]-6-methylamino-1,3,5-triazine | OCN(C1=NC(=NC(=N1)N(C)CO)NC)C | C8H16N6O2
